US07300944B2
3-{3-[1-tert-Butyl-6-oxo-4-(2,4,5-trifluoro-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-b]pyridin-3-yl]-1-hydroxy-cyclobutyl}-benzonitrile
To a stirring solution of 3-bromobenzonitrile (3.7 g, 20.4 mmol) in 50 mL of THF at −78° C. (acetone/CO2 bath) was added a solution of n-BuLi (8.2 mL, 20.4 mmol, 2.5 M in hexanes). After 15 min, a solution of 1-tert-butyl-3-(3-oxo-cyclobutyl)-4-(2,4,5-trifluoro-phenyl)-1,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one (2.0 g, 5.1 mmol in 10 mL of THF) was added. After one hr, the reaction mixture was quenched cold by the addition of a saturated NH4Cl solution, and was then allowed to warm to room temperature. The reaction mixture was diluted with CH2Cl2, and the layers were separated. The organic layer was dried over MgSO4, filtered through a pad of diatomaceous earth, and concentrated under reduced pressure to give a tan solid. Purification of this material was accomplished by MPLC using a 35 g ISCO cartridge on a Biotage® system eluting with a gradient of 25-50% EtOAc/hexanes. The product-containing fractions were collected and concentrated to yield the title compound (0.98 g, 40% yield) as a tan solid. Rf=0.29 (50% EtOAc/hexanes).

reactant | 3-bromobenzonitrile | 20.4 mmol, 3.7 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | acetone CO2 | CC(=O)C.C(=O)=O
reactant | n-BuLi | 20.4 mmol, 2.5 M, 8.2 mL | [Li]CCCC
reactant | 1-tert-butyl-3-(3-oxo-cyclobutyl)-4-(2,4,5-trifluoro-phenyl)-1,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one | 5.1 mmol, 10 mL, 2.0 g | C(C)(C)(C)N1N=C(C2=C1NC(CC2C2=C(C=C(C(=C2)F)F)F)=O)C2CC(C2)=O | C20H20F3N3O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-{3-[1-tert-Butyl-6-oxo-4-(2,4,5-trifluoro-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-b]pyridin-3-yl]-1-hydroxy-cyclobutyl}-benzonitrile | 0.98 g, 40% yield | C(C)(C)(C)N1N=C(C2=C1NC(CC2C2=C(C=C(C(=C2)F)F)F)=O)C2CC(C2)(O)C=2C=C(C#N)C=CC2 | C27H25F3N4O2
